US05436343
Stage A: 1-(2,2-Dimethoxyethyl)cyclopentanecarbonitrile
0.1 mol of cyclopentanecarbonitrile in 50 ml of THF is added in a rapid dropwise manner to a solution, stirred at 78° C. under an argon atmosphere, of 0.1 mol of lithium diisopropylamide (prepared from 0.1 mol of diisopropylamine and 63 ml of 1.6M butyllithium in hexane) in 250 ml of anhydrous THF. The mixture is stirred for 5 minutes at this temperature before adding 0.11 mol of 1-bromo-2,2dimethoxyethane. The mixture is allowed to return to room temperature and is hydrolyzed using 150 ml of water. The medium is allowed to settle, and the aqueous phase is separated and extracted twice with 150 ml of ether. The combined organic phases are washed with 100 ml of aqueous saline solution and 100 ml of water and then dried over magnesium sulfate. The solvents are evaporated off under vacuum and the residual oil is distilled.

reactant | cyclopentanecarbonitrile | 0.1 mol | C1(CCCC1)C#N | C6H9N
reactant | lithium diisopropylamide | 0.1 mol, 1.6M, 63 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-bromo-2,2dimethoxyethane | 0.11 mol | BrCC(OC)OC | C4H9BrO2
reactant | water | 150 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 1-(2,2-Dimethoxyethyl)cyclopentanecarbonitrile | COC(CC1(CCCC1)C#N)OC | C10H17NO2
